US07968573B2
A mixture of 1.07 g of ethyl 1-(3-chloro-2-pyridinyl)-3-isopropyl-1H-pyrazole-5-carboxylate, 15 ml of methanol and 15 ml of a 2N aqueous sodium hydroxide solution was heated to reflux for 1.5 hours. After the reaction mixture was allowed to cool, water was poured and the mixture was washed with methyl t-butyl ether two times. The aqueous layer was adjusted to around pH 3 by an addition of 2N hydrochloric acid, and then extracted with methyl t-butyl ether three times. The combined organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 0.97 g of 1-(3-chloro-2-pyridinyl)-3-isopropyl-1H-pyrazole-5-carboxylic acid of the formula:

reactant | ethyl 1-(3-chloro-2-pyridinyl)-3-isopropyl-1H-pyrazole-5-carboxylate | 1.07 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OCC)C(C)C | C14H16ClN3O2
reactant | methanol | 15 ml | CO | CH4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(3-chloro-2-pyridinyl)-3-isopropyl-1H-pyrazole-5-carboxylic acid | 0.97 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)C(C)C | C12H12ClN3O2
